US08802659B2
3-((6-(spiro[4.5]decan-8-yloxy)naphthalen-2-yl)methylamino)propanoic acid
A solution of 6-(Spiro[4.5]dec-8-yloxy)-naphthalene-2-carbaldehyde (229.5 mg, 0.7441 mmol) and Beta-alanine (66.3 mg, 0.744 mmol) in ethanol (1 mL, 20 mmol) was heated to reflux for 2 h. The yellow solution was cooled to rt and sodium cyanoborohydride (56.1 mg, 0.893 mmol) was added and was heated to reflux for 1 h. After cooled down to rt, citric acid was added and concentrated down. Extraction with DCM and prep HPLC gave product as a white solid (88 mg, 31%). LCMS Rt=1.52 min m/z=382.30 [M+1]. 1H NMR (400 MHz, MeOD) δ=7.89 (s, 1H), 7.83 (d, J=8.5 Hz, 1H), 7.80 (d, J=9.0 Hz, 1H), 7.48 (dd, J=1.7, 8.5 Hz, 1H), 7.27 (s, 1H), 7.19 (dd, J=2.3, 8.9 Hz, 1H), 4.55-4.44 (m, 1H), 4.35 (s, 2H), 3.36-3.32 (m, 2H), 2.76 (t, J=6.8 Hz, 2H), 2.09-1.33 (m, 16H).

reactant | 6-(Spiro[4.5]dec-8-yloxy)-naphthalene-2-carbaldehyde | 0.7441 mmol, 229.5 mg | C1CCCC12CCC(CC2)OC=2C=C1C=CC(=CC1=CC2)C=O | C21H24O2
reactant | Beta-alanine | 0.744 mmol, 66.3 mg | NCCC(=O)O | C3H7NO2
reactant | ethanol | 20 mmol, 1 mL | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 0.893 mmol, 56.1 mg | C(#N)[BH3-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 3-((6-(spiro[4.5]decan-8-yloxy)naphthalen-2-yl)methylamino)propanoic acid | 88 mg, 31% | C1CCCC12CCC(CC2)OC=2C=C1C=CC(=CC1=CC2)CNCCC(=O)O | C24H31NO3
